US05709911
First, 19.6 g of ethyl 4-bromobutyrate, 24.4 g of triphenylphosphine, and 70 ml of toluene were placed in a 200 ml flask. The mixture was stirred under reflux for 10 hours. After the mixture was cooled, produced crystal was recovered by filtration and washed with toluene to obtain 31.4 g of 3-ethoxycarbonylpropyltriphenylphosphonium bromide (Y: 68%). The compound thus obtained had an m.p. of 173° C. to 180° C.

reactant | ethyl 4-bromobutyrate | 19.6 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | triphenylphosphine | 24.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 3-ethoxycarbonylpropyltriphenylphosphonium bromide | 31.4 g, 68% | [Br-].C(C)OC(=O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H26O2P.BrH/c1-2-26-24(25)19-12-20-27(21-13-6-3-7-14-21,22-15-8-4-9-16-22)23-17-10-5-11-18-23;/h3-11,13-18H,2,12,19-20H2,1H3;1H/q+1;/p-1
